US05521188
C. 4-Ethylthio-3-(3-methanesulfonyloxy-1-propyl)-5-(4-methyl-1,2-dioxocyclobut-3-en-3-yl)amino indole
A cold (5° C.) mixture of 3-(4-ethylthio-5-(4-methyl-1,2-dioxocyclobut-3-en-3-yl) amino-3-indolyl)1-propanol (0.708 g, 2.1 mmol) and Et3N (0.697 ml, 5.0 mmol) in THF:CH2Cl2 (1:2, 45 ml) mixture kept under argon atm. was treated dropwise with MsCl (0.387 ml, 5.0 mmol) and stirred at 23° C. for 1.5 h. The reaction mixture was diluted with CH2Cl2 (40ml) and washed with H2O (10ml) and saturated NaHCO3 solution. The organic phase was dried (MgSO4) and concentrated in vacuo. The crude material was purified on silica gel dry column using a mixture of CH2Cl2 :EtOAc (7.3) as eluting solvent. Appropriate fractions were concentrated in vacuo giving a yellow oil, 0.70 g, 79%. 1H NMR (DMSO-d6) δ (ppm): 11.26, 11.20, 10.81 and 10.53 (4 br s, 2H, indolic NH and 5-NH), 7.42 (br s, 1H), 7.32 (s, 1H), 7.09 (d, J=8.2 Hz, 1H), 4.27 (t, J=6.4 Hz, 2H, CH2OSO2), 3.17 (s, 3H, CH3SO2), 3.11 (t, J=7 Hz, 2H, CH2CH2CH2O), 2.67 (br s, 2H, CH3CH2S), 2.28 (br, s, 1H, CH3 of dioxocyclobutene), 2.0-2.15 (m, 2H, CH2CH2CH2O), 1.59 (br s, 2H CH3 of dioxocyclobutene), 0.9-1.1 (m, 3H, CH3CH2S). IR (film) n:3710, 3180, 1783, 1728, 1590, 1340 and 1170 cm-1.

reactant | 3-(4-ethylthio-5-(4-methyl-1,2-dioxocyclobut-3-en-3-yl) amino-3-indolyl)1-propanol | 2.1 mmol, 0.708 g | C(C)SC1=C2C(=CNC2=CC=C1NC=1C(C(C1C)=O)=O)CCCO | C18H20N2O3S
reactant | Et3N | 5.0 mmol, 0.697 ml | CCN(CC)CC | C6H15N
reactant | MsCl | 5.0 mmol, 0.387 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | THF CH2Cl2 | 45 ml | C1CCOC1.C(Cl)Cl
solvent | CH2Cl2 | 40ml | C(Cl)Cl | CH2Cl2
product | 4-Ethylthio-3-(3-methanesulfonyloxy-1-propyl)-5-(4-methyl-1,2-dioxocyclobut-3-en-3-yl)amino indole | C(C)SC1=C2C(=CNC2=CC=C1NC=1C(C(C1C)=O)=O)CCCOS(=O)(=O)C | C19H22N2O5S2
